US05464781
A mixture of ethyl 6-bromo-4-hydroxy-7-methyl-1,8-naphthyridine-3-carboxylate (6.7 g), sodium hydroxide pellets (1.7 g) and water (50 ml) was heated at 180° C. in a pressure vessel for 18 hours. The mixture was cooled and filtered to give 6-bromo-7-methyl-1,8-naphthyridin-4-ol, m.p. >250° C.

reactant | ethyl 6-bromo-4-hydroxy-7-methyl-1,8-naphthyridine-3-carboxylate | 6.7 g | BrC=1C=C2C(=C(C=NC2=NC1C)C(=O)OCC)O | C12H11BrN2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 6-bromo-7-methyl-1,8-naphthyridin-4-ol | BrC=1C=C2C(=CC=NC2=NC1C)O | C9H7BrN2O
